US07132425B2
A solution of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1,1-dimethoxy-ethyl)-pyrazin-2-yl]-propionamide (1.22 g, 2.459 mmol) in acetone (28 mL) and water (3 mL) was treated with p-toluenesulfonic acid monohydrate (142.5 mg, 0.738 mmol). The reaction mixture was heated to 60° C. for 30 min and then was diluted with ethyl acetate (100 mL). The organic layer was washed with a saturated aqueous sodium bicarbonate solution (100 mL), water (100 mL), and a saturated aqueous sodium chloride solution (100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/3 ethyl acetate/hexanes) afforded the N-(5-acetyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide as a white foam (1.07 g, 96%): mp 77–80° C. (foam to gel); (ES)+-HRMS m/e calcd for C21H24ClN3O4S (M+H)+ 450.1249, found 450.1253.

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1,1-dimethoxy-ethyl)-pyrazin-2-yl]-propionamide | 2.459 mmol, 1.22 g | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)C(C)(OC)OC)CC1CCCC1 | C23H30ClN3O5S
reactant | p-toluenesulfonic acid monohydrate | 0.738 mmol, 142.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 28 mL | CC(=O)C | C3H6O
solvent | water | 3 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-acetyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 1.07 g, 96% | C(C)(=O)C=1N=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C21H24ClN3O4S
